US04618616
(E) 2-(2,4-Dichlorophenyl)-2-[1-(1H-1,2,4-triazol-1-yl)cyclopropyl]oxirane
1-(1-H-1,2,4-Triazol-1-yl)cyclopropyl 2,4-dichlorophenyl ketone (0.5 g, 1.8 mMole) was added to trimethylsulfphoxonium iodide (0.57 g, 2.6 mMole), cetrimide (0.02 g), 1,1,1-trichloroethane (10 ml) and aqueous sodium hydroxide solution (5 ml of 20%). The mixture was refluxed for twenty hours.

reactant | 1-(1-H-1,2,4-Triazol-1-yl)cyclopropyl 2,4-dichlorophenyl ketone | 1.8 mMole, 0.5 g | ClC1=C(C=CC(=C1)Cl)C(=O)C1(CC1)N1N=CN=C1 | C12H9Cl2N3O
reactant | iodide | 2.6 mMole, 0.57 g | [I-]
reactant | cetrimide | 0.02 g | CCCCCCCCCCCCCC[N+](C)(C)C
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
solvent | 1,1,1-trichloroethane | 10 ml | ClC(C)(Cl)Cl | C2H3Cl3
product | 2-(2,4-Dichlorophenyl)-2-[1-(1H-1,2,4-triazol-1-yl)cyclopropyl]oxirane | ClC1=C(C=CC(=C1)Cl)C1(OC1)C1(CC1)N1N=CN=C1 | C13H11Cl2N3O
